US04767768
To a mixture of sodium hydride (60% in oil, 7.5 g) and dry benzene (200 ml) was added dropwise diethyl cyanomethylphosphonate (30 g) with stirring at 0° C. under dry nitrogen atmosphere. After stirring for 60 minutes at room temperature, a solution of (E)-2-ethyl-2-butenal (16.6 g) in dry benzene was added thereto at 0° C. with stirring. The resulting mixture was allowed to stand at room temperature for 60 minutes and diluted with water and then extracted with ethyl acetate. The extract was washed successively with water and brine, and then dried over magnesium sulfate. Removal of the solvent gave an oil which was purified by distillation under reduced pressure to give (E,E)-4-ethyl-2,4-hexadienenitrile (8.4 g).

reactant | sodium hydride | 7.5 g | [H-].[Na+]
reactant | diethyl cyanomethylphosphonate | 30 g | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | (E)-2-ethyl-2-butenal | 16.6 g | C(C)/C(/C=O)=C\C | C6H10O
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | (E,E)-4-ethyl-2,4-hexadienenitrile | 8.4 g | C(C)/C(/C=C/C#N)=C\C | C8H11N
